US04051170
(4-chlorophenoxy)-[4-(1,2,3,4-tetrahydro-4-quinolyl)-phenoxy]-acetic acid;
(4-chlorophenoxy)-[4-(1-methyl-1,2,3,4-tetrahydro-4-quinolyl)-phenoxy]-acetic acid,, diisopropylamine salt, m.p. 152°-155°;

reactant | (4-chlorophenoxy)-[4-(1-methyl-1,2,3,4-tetrahydro-4-quinolyl)-phenoxy]-acetic acid | ClC1=CC=C(OC(C(=O)O)OC2=CC=C(C=C2)C2CCN(C3=CC=CC=C23)C)C=C1 | C24H22ClNO4
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
product | (4-chlorophenoxy)-[4-(1,2,3,4-tetrahydro-4-quinolyl)-phenoxy]-acetic acid | ClC1=CC=C(OC(C(=O)O)OC2=CC=C(C=C2)C2CCNC3=CC=CC=C23)C=C1 | C23H20ClNO4
